US04310512
Preparation of 2-Hydroxyethyl N-methyl-N-phenylglycinate
Into a 100 ml. flask fitted with a condenser and a Dean-Stark trap there were placed 49.5 gms. ethylene glycol, 17 gms. of ethyl N-methyl-N-phenylglycinate and 0.7 gm. sodium methoxide. The flask and contents were heated to 150° C. in an oil bath and stirred for 13 hours. The reaction mixture was allowed to cool to room temperature and 1.25 ml. of concentrated HCl in 3.5 ml. water were added and the mixture was stirred for 10 minutes. After the ethylene glycol was distilled off at atmospheric pressure, 11.5 gms. of product was obtained by vacuum distillation, b.p. (0.3 mm.) 139°-149° C.

reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | ethyl N-methyl-N-phenylglycinate | CN(CC(=O)OCC)C1=CC=CC=C1 | C11H15NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 2-Hydroxyethyl N-methyl-N-phenylglycinate | CN(CC(=O)OCCO)C1=CC=CC=C1 | C11H15NO3
